2135-10-07 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2135-10-6**] 03:53 PM
   - had pain and nausea overnight without change in abdominal exam
   Allergies:
   E-Mycin (Oral) (Erythromycin Base)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-10-6**] 10:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2135-10-7**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2135-10-6**] 09:00 PM
   Morphine Sulfate - [**2135-10-7**] 01:10 AM
   Hydromorphone (Dilaudid) - [**2135-10-7**] 01:30 AM
   Hydralazine - [**2135-10-7**] 01:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-7**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 120 (96 - 130) bpm
   BP: 156/51(74) {110/42(58) - 184/79(104)} mmHg
   RR: 18 (11 - 31) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 55 kg (admission): 55 kg
             Total In:
                                                                  2,107 mL
                                                                  1,713 mL
   PO:
             TF:
   IVF:
                                                                  1,808 mL
                                                                  1,713 mL
   Blood products:
                                                                    299 mL
   Total out:
                                                                  1,820 mL
                                                                    910 mL
   Urine:
                                                                    760 mL
                                                                    710 mL
   NG:
   Stool:
                                                                    400 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                    287 mL
                                                                    803 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General: Awake, alert, answering questions appropriately, no distress
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffusely tender, non-distended, bowel sounds present,
   no rebound, voluntary guarding, left sided ostomy in place with dark
   guaiac positive output
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   331 K/uL
   9.5 g/dL
   135 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   11 mg/dL
   100 mEq/L
   136 mEq/L
   28.1 %
   25.6 K/uL
        [image002.jpg]
                             [**2135-10-6**]  04:32 PM
                             [**2135-10-7**]  04:58 AM
   WBC
   20.1
   25.6
   Hct
   30.8
   28.1
   Plt
   326
   331
   Cr
   0.8
   0.8
   Glucose
   141
   135
   Other labs: PT / PTT / INR:14.9/28.1/1.3, ALT / AST:153/218, Alk Phos /
   T Bili:577/4.2, Amylase / Lipase:90/23, Differential-Neuts:92.5 %,
   Lymph:3.0 %, Mono:3.7 %, Eos:0.6 %, Fibrinogen:615 mg/dL, LDH:293 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.9 mg/dL, PO4:4.8 mg/dL
   .
   Blood cx- pending
   Urine cx- pending
   MRSA screen- pending
   Assessment and Plan
   67 year old female with a history of crohn's disease s/p multiple
   abdominal surgeries with ileostomy and short gut syndrome,
   cholecystitis s/p open cholecystostomy tube in [**Month (only) 807**] and ERCP with stent
   placement on [**2135-9-30**] who presents from home with worsening abdominal
   pain and nausea.
   Abdominal Pain/Leukocytosis:  Patient currently with diffuse abdominal
   pain, leukocytosis with left shift, and rising LFTS.  Pain developed
   shortly after recent ERCP which is concerning for stent occlusion or
   accumulation of sludge.  Other potential etiologies of her abdominal
   pain include ischemic bowel given diffuse pain with soft abdomen and
   guaiac positive stools, obstruction (less likely given exam),
   perforation, abscess, biliary/peritoneal fistula. Right upper quadrant
   ultrasound with 13 mm CBD.  CT scan showed distended gallbladder with
   gallstones.  WBC count and bilirubin rising.
   - trend LFTs, WBC, lactate
   - plan for ERCP first thing this AM
   - surgical team co-managing
   - vancomycin and unasyn for now, if worsening clinical presentation
   will broaden to zosyn
   - zofran, compazine and morphine for pain and nausea
   - NPO, LR @ 150 cc/hr, with boluses to maintain pressures and relieve
   tachycardia
   - if tachycardia does not resolve after ERCP, low threshold for placing
   central line and monitoring CVP
   - follow blood, urine cultures from the emergency room
   Coagulopathy:  Patient with INR of 2.0 on presentation.  Unclear
   etiology.  She has been as high as 1.6 in the past.  Most likely
   etiology is nutritional deficiencies but in this setting must be
   concerned for consumptive coagulopathy (less likely given normal
   platelet count). She has received 5 mg IV vitamin K and one unit of
   FFP.
   - DIC labs not concerning
   - monitor INR
   Guaiac positive stools:  Most likely etiology is her known crohn's
   disease, but in this setting also concerned for ischemic colitis,
   ulcers, other etiologies of gastrointestinal bleeding.  Patient
   refusing NGT.  Hematocrit currently stable. Port for access, currently
   unable to obtain additional peripherals.
   - active type and screen
   - port for access
   - hematocrits [**Hospital1 7**]
   - IV PPI [**Hospital1 7**]
   - surgical team following
   Crohn's disease:  As above, s/p multiple surgeries with ileostomy with
   short gut syndrome.  Currently can't take PO medications.  Will need to
   address with gastroenterology and surgery management if she continues
   to be unable to take POs.
   - start stress dose IV steroids as pt unable to continue taking POs
   - will discuss with GI about restarting home 5-ASA
   - close monitoring of electrolytes ([**Hospital1 7**] lytes) given short gut syndrome
   FEN: LR @ 150 cc/hr, replete electrolytes, NPO, IVF boluses as
   necessary to maintain parameters
   Prophylaxis: Pneumoboots
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient, husband [**Name (NI) **] [**Name (NI) 9676**] [**Telephone/Fax (1) 9678**] (h),
   [**Telephone/Fax (1) 9679**] (c)
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  monitoring
   Lines:
   Indwelling Port (PortaCath) - [**2135-10-6**] 03:53 PM
   22 Gauge - [**2135-10-6**] 06:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2135-10-07 08:51:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains with abd pain, now better improved with morphine and dilaudid
   Required 1 dose hydralazine overnight, for hypertension.
   Remains with tachycardia.
   Much more awake this AM, appropriate.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   E-Mycin (Oral) (Erythromycin Base)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-10-6**] 10:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2135-10-7**] 07:37 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2135-10-7**] 01:30 AM
   Hydralazine - [**2135-10-7**] 01:40 AM
   Pantoprazole (Protonix) - [**2135-10-7**] 07:37 AM
   Morphine Sulfate - [**2135-10-7**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea, Hypertension
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**6-15**] Moderate
   Pain location: Abdominal pain
   Flowsheet Data as of  [**2135-10-7**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 123 (96 - 130) bpm
   BP: 138/63(80) {110/42(58) - 184/79(104)} mmHg
   RR: 22 (11 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 55 kg (admission): 55 kg
             Total In:
                                                                  2,107 mL
                                                                  1,991 mL
   PO:
             TF:
   IVF:
                                                                  1,808 mL
                                                                  1,991 mL
   Blood products:
                                                                    299 mL
   Total out:
                                                                  1,820 mL
                                                                  1,060 mL
   Urine:
                                                                    760 mL
                                                                    860 mL
   NG:
   Stool:
                                                                    400 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                    287 mL
                                                                    931 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   331 K/uL
   135 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   11 mg/dL
   100 mEq/L
   136 mEq/L
   28.1 %
   25.6 K/uL
        [image002.jpg]
                             [**2135-10-6**]  04:32 PM
                             [**2135-10-7**]  04:58 AM
   WBC
   20.1
   25.6
   Hct
   30.8
   28.1
   Plt
   326
   331
   Cr
   0.8
   0.8
   Glucose
   141
   135
   Other labs: PT / PTT / INR:14.9/28.1/1.3, ALT / AST:153/218, Alk Phos /
   T Bili:577/4.2, Amylase / Lipase:90/23, Differential-Neuts:92.5 %,
   Lymph:3.0 %, Mono:3.7 %, Eos:0.6 %, Fibrinogen:615 mg/dL, LDH:293 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Sepsis.
   RUQ PAIN
 concern for hepatobiliary disease, most concern for
   cholodocholithiasis or biliary leak (recent percutaneous drain),
   obstructed biliary stents.  Also consider intraabdominal abcess
   (multiple prior surgeries) or bowel ischemia.  No evidence for
   peritonitis or concern for bowel perforation.  Presence of coagulopathy
   and guiac + stool concerning for bowel ishcemia, and lipase elevated
   although HCO3 WNL.  Possible acute pancreatitis.  ABD CT does not
   demonstrate acute pathology (but limited study).  Plan monitor serial
   abd exam, iv fluids, empirical antimicrobials, ERCP team to evaluate
   --> ERCP today.  General Surgery to continue to follow.
   TACHYCARDIA -- persistent, suspect multifactorial including pain,
   anxiety and hypovolemia.  Monitor.  Replete iv fluid boluses.
   ELEVATED WBC -- increasing.  Concern for localized infection, likely
   biliary source.  Monitor.
   SEPSIS --  SIRS with likely intraabdominal infectious source.  Continue
   volume resussitation.  [**Month (only) 51**] benefit from central line placement for
   monitoring CVP and SvO2.  Await culture results.
   COAGULOPATHY
 corrected INR with vit K, FFP.  Monitor.
   FLUIDS
 hypovolemia. Replete with iv fluids, monitor I/O.
   RENAL FUNCTION -- preserved.  Monitor urine output, BUN, creat.
   LFT ABNORMALITY
  concern for biliary obstruction.  Monitor serial
   LFTs, amylase, lipase.  ABD CT scan.
   HTN
 likely due to pain.  Now better controlled with optimized pain
   mangement.  Monitor BP.
   CROHNS -- initiate steroids, consult GI service to assist in
   management.
   NUTRITIONAL SUPPORT
 short gut syndrome.  TPN.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2135-10-6**] 03:53 PM
   22 Gauge - [**2135-10-6**] 06:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2135-10-08 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2135-10-7**] 10:00 AM
   - ERCP: 2 plastic stents removed.  large blood clots extracted, fresh
   blood seen oozing from ampulla.  Consider angiographic embolisation if
   bleeding persists.
   - transfused 4 units of pRBCs, goal of hct>25
   - hct 26.4 -> 24.3 -> 32.1.  24.3 is likely due to dilution
   Allergies:
   E-Mycin (Oral) (Erythromycin Base)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-10-7**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2135-10-8**] 02:20 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2135-10-7**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-8**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.1
C (97
   HR: 70 (70 - 129) bpm
   BP: 105/46(60) {90/40(52) - 176/81(102)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 55 kg
             Total In:
                                                                  7,851 mL
                                                                  2,328 mL
   PO:
             TF:
   IVF:
                                                                  7,151 mL
                                                                  2,328 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  3,210 mL
                                                                    880 mL
   Urine:
                                                                  2,280 mL
                                                                    740 mL
   NG:
   Stool:
                                                                    930 mL
   Drains:
   Balance:
                                                                  4,641 mL
                                                                  1,448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.48/36/203/24/4
   Ve: 5.4 L/min
   PaO2 / FiO2: 406
   Physical Examination
   General: Awake, alert, answering questions appropriately, no distress
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffusely tender, non-distended, bowel sounds present,
   no rebound, voluntary guarding, left sided ostomy in place with dark
   guaiac positive output
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   252 K/uL
   11.5 g/dL
   125 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   33.1 %
   17.9 K/uL
        [image002.jpg]
                             [**2135-10-6**]  04:32 PM
                             [**2135-10-7**]  04:58 AM
                             [**2135-10-7**]  11:08 AM
                             [**2135-10-7**]  03:11 PM
                             [**2135-10-7**]  05:30 PM
                             [**2135-10-7**]  11:26 PM
                             [**2135-10-8**]  05:20 AM
   WBC
   20.1
   25.6
   15.1
   17.9
   Hct
   30.8
   28.1
   26.4
   24.3
   32.1
   33.1
   Plt
   326
   331
   232
   252
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   28
   Glucose
   141
   135
   153
   125
   Other labs: PT / PTT / INR:14.9/23.2/1.3, ALT / AST:92/100, Alk Phos /
   T Bili:364/8.9, Amylase / Lipase:90/23, Differential-Neuts:91.1 %,
   Lymph:4.2 %, Mono:4.2 %, Eos:0.4 %, Fibrinogen:615 mg/dL, LDH:293 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.5 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O CHOLECYSTITIS, CALCULOUS
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   67 year old female with a history of crohn's disease s/p multiple
   abdominal surgeries with ileostomy and short gut syndrome,
   cholecystitis s/p open cholecystostomy tube in [**Month (only) 807**] and ERCP with stent
   placement on [**2135-9-30**] who presents from home with worsening abdominal
   pain and nausea.
   Abdominal Pain/Leukocytosis:  Patient currently with diffuse abdominal
   pain, leukocytosis with left shift, and rising LFTS.  Pain developed
   shortly after recent ERCP which is concerning for stent occlusion or
   accumulation of sludge.  Other potential etiologies of her abdominal
   pain include ischemic bowel given diffuse pain with soft abdomen and
   guaiac positive stools, obstruction (less likely given exam),
   perforation, abscess, biliary/peritoneal fistula. Right upper quadrant
   ultrasound with 13 mm CBD.  CT scan showed distended gallbladder with
   gallstones.  WBC count and bilirubin rising.
   - trend LFTs, WBC, lactate
   - plan for ERCP first thing this AM
   - surgical team co-managing
   - vancomycin and unasyn for now, if worsening clinical presentation
   will broaden to zosyn
   - zofran, compazine and morphine for pain and nausea
   - NPO, LR @ 150 cc/hr, with boluses to maintain pressures and relieve
   tachycardia
   - if tachycardia does not resolve after ERCP, low threshold for placing
   central line and monitoring CVP
   - follow blood, urine cultures from the emergency room
   Coagulopathy:  Patient with INR of 2.0 on presentation.  Unclear
   etiology.  She has been as high as 1.6 in the past.  Most likely
   etiology is nutritional deficiencies but in this setting must be
   concerned for consumptive coagulopathy (less likely given normal
   platelet count). She has received 5 mg IV vitamin K and one unit of
   FFP.
   - DIC labs not concerning
   - monitor INR
   Guaiac positive stools:  Most likely etiology is her known crohn's
   disease, but in this setting also concerned for ischemic colitis,
   ulcers, other etiologies of gastrointestinal bleeding.  Patient
   refusing NGT.  Hematocrit currently stable. Port for access, currently
   unable to obtain additional peripherals.
   - active type and screen
   - port for access
   - hematocrits [**Hospital1 7**]
   - IV PPI [**Hospital1 7**]
   - surgical team following
   Crohn's disease:  As above, s/p multiple surgeries with ileostomy with
   short gut syndrome.  Currently can't take PO medications.  Will need to
   address with gastroenterology and surgery management if she continues
   to be unable to take POs.
   - start stress dose IV steroids as pt unable to continue taking POs
   - will discuss with GI about restarting home 5-ASA
   - close monitoring of electrolytes ([**Hospital1 7**] lytes) given short gut syndrome
   FEN: LR @ 150 cc/hr, replete electrolytes, NPO, IVF boluses as
   necessary to maintain parameters
   Prophylaxis: Pneumoboots
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient, husband [**Name (NI) **] [**Name (NI) 9676**] [**Telephone/Fax (1) 9678**] (h),
   [**Telephone/Fax (1) 9679**] (c)
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  monitoring
   Lines:
   Indwelling Port (PortaCath) - [**2135-10-6**] 03:53 PM
   22 Gauge - [**2135-10-6**] 06:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2135-10-08 09:03:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ERCP - At [**2135-10-7**] 10:00 AM--bleeding from biliary tree, large
   clots extracted, blood oozing from antrum, stent removed
   tranfused 4 units prbc over yetserday
   remains intubated post-ercp
   History obtained from Patient, ho
   Allergies:
   E-Mycin (Oral) (Erythromycin Base)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-10-7**] 08:00 PM
   Ampicillin/Sulbactam (Unasyn) - [**2135-10-8**] 02:20 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-8**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 70 (70 - 129) bpm
   BP: 105/46(60) {90/40(52) - 176/81(102)} mmHg
   RR: 16 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 55 kg
             Total In:
                                                                  7,851 mL
                                                                  2,344 mL
   PO:
             TF:
   IVF:
                                                                  7,151 mL
                                                                  2,344 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  3,210 mL
                                                                    880 mL
   Urine:
                                                                  2,280 mL
                                                                    740 mL
   NG:
   Stool:
                                                                    930 mL
   Drains:
   Balance:
                                                                  4,641 mL
                                                                  1,464 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.48/36/203/24/4
   Ve: 9.3 L/min
   PaO2 / FiO2: 406
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: no r/g, ostomy with dark
   outpt
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   252 K/uL
   125 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   33.1 %
   17.9 K/uL
        [image002.jpg]
                             [**2135-10-6**]  04:32 PM
                             [**2135-10-7**]  04:58 AM
                             [**2135-10-7**]  11:08 AM
                             [**2135-10-7**]  03:11 PM
                             [**2135-10-7**]  05:30 PM
                             [**2135-10-7**]  11:26 PM
                             [**2135-10-8**]  05:20 AM
   WBC
   20.1
   25.6
   15.1
   17.9
   Hct
   30.8
   28.1
   26.4
   24.3
   32.1
   33.1
   Plt
   326
   331
   232
   252
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   28
   Glucose
   141
   135
   153
   125
   Other labs: PT / PTT / INR:14.9/23.2/1.3, ALT / AST:92/100 (flat), Alk
   Phos / T Bili:364/8.9 (up), Amylase / Lipase:90/23,
   Differential-Neuts:91.1 %, Lymph:4.2 %, Mono:4.2 %, Eos:0.4 %,
   Fibrinogen:615 mg/dL, LDH:293 IU/L, Ca++:7.2 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.0 mg/dL
   Imaging: no new imaging
   Microbiology: bl pending [**10-7**]--ngtd
   [**10-6**]--ngtd, gpc clusters
   urine neg
   Assessment and Plan
 ANEMIA, OTHER
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O CHOLECYSTITIS, CALCULOUS
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   Pre-sepsis in pt with Crohns ds, s/p ercp with stent removal, evidence
   of bleeding from biliary tree
   Biliary obstruction
Appears in part from stones and also clot from
   biliary trauma/bleeding. Continues on vanco and unasyn wih plan to
   broaden to zosyn/vanco if clinical decline.  f/u cx data and trned
   lactate and lfts.  LFTs with increasing t bili.  We continue to monitor
   and ERCP team is following for relook possible stent replacement once
   blleding situation has stabilized. T and cross, serial hcts, goal hct
   25.  Correct any coagulopathy.
   RUQ PAIN
 concern for hepatobiliary disease, most concern for
   cholodocholithiasis or biliary leak (recent percutaneous drain),
   obstructed biliary stents.  Also consider intraabdominal abcess
   (multiple prior surgeries) or bowel ischemia.  No evidence for
   peritonitis or concern for bowel perforation.  Presence of coagulopathy
   and guiac + stool concerning for bowel ishcemia, and lipase elevated
   although HCO3 WNL.  Possible acute pancreatitis.  ABD CT does not
   demonstrate acute pathology (but limited study).  Plan monitor serial
   abd exam, iv fluids, empirical antimicrobials, ERCP team to evaluate
   --> ERCP today.  General Surgery to continue to follow.
   Respiratory failure
intubated for procedure.  Awake.  Clarify ercp
   plans for procedure prior to extubation.
   TACHYCARDIA -- persistent, suspect multifactorial including pain,
   anxiety and hypovolemia.  Monitor.  Replete iv fluid boluses.
   ELEVATED WBC -- increasing.  Concern for localized infection, likely
   biliary source.  Monitor.
   SEPSIS --  SIRS with likely intraabdominal infectious source.  Continue
   volume resussitation.  [**Month (only) 51**] benefit from central line placement for
   monitoring CVP and SvO2.  Await culture results.
   COAGULOPATHY
 corrected INR with vit K, FFP.  Monitor.
   RENAL FUNCTION -- preserved.  Monitor urine output, BUN, creat.
   LFT ABNORMALITY
  concern for biliary obstruction.  Monitor serial
   LFTs, amylase, lipase.  ABD CT scan.
   HTN and tachycardia
Related to pain and agitation.  Optimize pain
   mangement with morphine prn.  Monitor BP.
   CROHNS
 continue stress steroids, consult GI service to assist in
   management. And to clarify home dose.  Can likely resumn IV equivalent
   of home steroid dose
   NUTRITIONAL SUPPORT
 short gut syndrome. Continue NPO for now.  Start
   maintenance ivfs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2135-10-6**] 03:53 PM
   22 Gauge - [**2135-10-6**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2135-10-09 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-8**]
   -Extubated today - pt refused post extubation ABG. Mentating well, SaO2
   95% NC, denies SOB.
   .
   - WBC elevated yesterday afternoon to 27-29. Entire CBC was elevated.
   At 1AM labs, counts were more consistent with yesterday AM. Etiology
   still unclear.
   .
   CBC increased -> most likely pre-renal as all counts up; leukocytosis
   may be due to steroids, C. diff; given IVF at 150cc/hr and urine lytes
   sent (forgot to get Cr!), C. diff sent.
   -Surgery: no recs
   -ERCP: repeat ERCP when bleeding stops. Today, LFTs looking better, can
   do stent tmrw [**10-9**] if pt looks like she has biliary sepsis given
   elevated WBC to 29. But, pt afebrile, comfortable, mentating well.
   -
   -Tachycardic/hypertensive - did not respond to fluids; gave 5mg IV
   metoprolol with SBP 130s and HR 80s. [**Month (only) 51**] have been due to rebound from
   holding BB.
   .
   -Steroids: unclear if started by endo for adrenal insufficiency vs GI
   for Crohn's dz.
   .
   -5AM - [**Month (only) **] in blood culture from Port.
   Allergies:
   E-Mycin (Oral) (Erythromycin Base)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-10-8**] 08:20 PM
   Ampicillin/Sulbactam (Unasyn) - [**2135-10-9**] 02:16 AM
   Piperacillin - [**2135-10-9**] 06:07 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2135-10-8**] 10:30 AM
   Metoprolol - [**2135-10-8**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-9**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 71 (71 - 146) bpm
   BP: 114/54(68) {113/50(66) - 183/83(104)} mmHg
   RR: 13 (12 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 55 kg
             Total In:
                                                                  4,869 mL
                                                                    355 mL
   PO:
             TF:
   IVF:
                                                                  4,869 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    340 mL
   Urine:
                                                                  1,460 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,094 mL
                                                                     15 mL
   Physical Examination
   General: Awake, alert, answering questions appropriately, no distress
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffusely tender, non-distended, bowel sounds present,
   no rebound, voluntary guarding, left sided ostomy in place with dark
   guaiac positive output
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   233 K/uL
   10.6 g/dL
   121 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   20 mg/dL
   108 mEq/L
   140 mEq/L
   30.9 %
   15.5 K/uL
        [image002.jpg]
                             [**2135-10-7**]  11:08 AM
                             [**2135-10-7**]  03:11 PM
                             [**2135-10-7**]  05:30 PM
                             [**2135-10-7**]  11:26 PM
                             [**2135-10-8**]  05:20 AM
                             [**2135-10-8**]  12:47 PM
                             [**2135-10-8**]  02:06 PM
                             [**2135-10-8**]  04:08 PM
                             [**2135-10-8**]  06:43 PM
                             [**2135-10-9**]  02:22 AM
   WBC
   15.1
   17.9
   28.8
   27.1
   15.5
   Hct
   26.4
   24.3
   32.1
   33.1
   38.8
   38.1
   30.9
   Plt
   232
   252
   331
   298
   233
   Cr
   0.9
   0.9
   0.6
   0.9
   0.9
   TCO2
   28
   Glucose
   153
   125
   101
   121
   Other labs:
   PT / PTT / INR:12.9/22.5/1.1,
   ALT / AST:86/80 (unchanged), Alk Phos /:344 (increased) / T Bili 4.8
   (decreased)
   Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   .
   Urine lytes: did not get Cr so unable to calculate FeNa or FeUrea.
   Request added.
   Assessment and Plan
   67 year old female with a history of crohn's disease s/p multiple
   abdominal surgeries with ileostomy and short gut syndrome,
   cholecystitis s/p open cholecystostomy tube in [**Month (only) 807**] and ERCP with stent
   placement on [**2135-9-30**] who presents from home with worsening abdominal
   pain and nausea.
   .
   #Respiratory Failure
 Patient was extubated yesterday.  Did well on NC
   without desaturations.
   .
   #[**Name (NI) **] Bacteremia
 pt does not meet SIRS/sepsis criteria as she is
   afebrile, normal and RR and HR. She does have leukocytosis. Given
   possibility for Pseudonomas (although E. coli more likely), switched
   from Unasyn to Zosyn.
   -Should we double-cover with ciprofloxacin as well?
   .
   #Abdominal Pain/Leukocytosis:  T bili elevated this AM, 4.8
 8.9.
   ERCP was notified, they are of the opinion that she likely clotted
   again, but they want to wait until after she
s stopped bleeding before
   they repeat ERCP.
   - fractionate bili
   - trend LFTs, WBC, lactate
   - plan for ERCP first thing this AM
   - surgical team co-managing
   - vancomycin and unasyn for now, if worsening clinical presentation
   will broaden to zosyn
   - f/u culture data
   - zofran, compazine and morphine for pain and nausea
   - NPO, LR @ 100 cc/hr, with boluses to maintain pressures and relieve
   tachycardia
   .
   #Coagulopathy:  Patient with INR of 2.0 on presentation.  Unclear
   etiology.  She has been as high as 1.6 in the past.  Most likely
   etiology is nutritional deficiencies but in this setting must be
   concerned for consumptive coagulopathy (less likely given normal
   platelet count). She has received 5 mg IV vitamin K and one unit of
   FFP, INR 1.3 today.  DIC labs are not concerning.
   - monitor INR daily
    .
   #Guaiac positive stools:  Most likely etiology is her known crohn's
   disease, but in this setting also concerned for ischemic colitis,
   ulcers, other etiologies of gastrointestinal bleeding.  Patient
   refusing NGT.  Hematocrit currently stable. Port for access, currently
   unable to obtain additional peripherals.
   - active type and screen
   - port for access
   - hematocrits [**Hospital1 7**]
   - IV PPI [**Hospital1 7**]
   - surgical team following
    .
   #Crohn's disease:  As above, s/p multiple surgeries with ileostomy with
   short gut syndrome.  Currently can't take PO medications.  Will need to
   address with gastroenterology and surgery management if she continues
   to be unable to take POs.
   - consult GI regarding steroid dosing and restarting 5-ASA
   - close monitoring of electrolytes ([**Hospital1 7**] lytes) given short gut syndrome
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2135-10-6**] 03:53 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole IV
   VAP:
   Comments:
   Communication:  Comments: Patient, husband [**Name (NI) **] [**Name (NI) 9676**] [**Telephone/Fax (1) 9678**]
   (h), [**Telephone/Fax (1) 9679**] (c)
   Code status: Full code
   Disposition: ICU for now.

2135-10-09 09:51:00 Physician Attending Progress Note
Chief Complaint: sepsis, biliary obstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   extubated yesterday
 on NC overnight
   wbc and hct/plt elevated on afternoon lab check--> hydrated--> repeat
   labs c/w
        with prior
   received beta blocker IV X 1 and pain control with morphine with
   improvement in
        tachy/htn
   bl cx + gnr / staph-->unasyn changed to zosyn, continued on vanco
   History obtained from Patient, ho
   Allergies:
   E-Mycin (Oral) (Erythromycin Base)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-10-8**] 08:20 PM
   Ampicillin/Sulbactam (Unasyn) - [**2135-10-9**] 02:16 AM
   Piperacillin - [**2135-10-9**] 06:07 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2135-10-8**] 10:30 AM
   Metoprolol - [**2135-10-8**] 02:15 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-10-9**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 71 (71 - 136) bpm
   BP: 114/54(68) {113/50(66) - 175/77(98)} mmHg
   RR: 13 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 55 kg
             Total In:
                                                                  4,869 mL
                                                                    387 mL
   PO:
             TF:
   IVF:
                                                                  4,869 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    340 mL
   Urine:
                                                                  1,460 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,094 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , scant basilar Crackles :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: purposefulNo(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   233 K/uL
   121 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   20 mg/dL
   108 mEq/L
   140 mEq/L
   30.9 %
   15.5 K/uL
        [image002.jpg]
                             [**2135-10-7**]  11:08 AM
                             [**2135-10-7**]  03:11 PM
                             [**2135-10-7**]  05:30 PM
                             [**2135-10-7**]  11:26 PM
                             [**2135-10-8**]  05:20 AM
                             [**2135-10-8**]  12:47 PM
                             [**2135-10-8**]  02:06 PM
                             [**2135-10-8**]  04:08 PM
                             [**2135-10-8**]  06:43 PM
                             [**2135-10-9**]  02:22 AM
   WBC
   15.1
   17.9
   28.8
   27.1
   15.5
   Hct
   26.4
   24.3
   32.1
   33.1
   38.8
   38.1
   30.9
   Plt
   232
   252
   331
   298
   233
   Cr
   0.9
   0.9
   0.6
   0.9
   0.9
   TCO2
   28
   Glucose
   153
   125
   101
   121
   Other labs: PT / PTT / INR:12.9/22.5/1.1, ALT / AST:86/80, Alk Phos / T
   Bili:344 (up)/4.8 (down), Amylase / Lipase:90/23,
   Differential-Neuts:91.1 %, Lymph:4.2 %, Mono:4.2 %, Eos:0.4 %,
   Fibrinogen:615 mg/dL, LDH:381 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.8 mg/dL
   Imaging: no new imaging
   Microbiology: [**10-6**]: port bl cx--> gnr
   [**10-6**]: bl staph aureus, [**Last Name (un) 270**] pending
   mrsa screen pos
   urine neg
   Assessment and Plan
   67 yo F w/ Crohn
s ds s/p multiple prior abd surgeries, ileostomy,
   short gut syndrome, h/o cholelithiasis s/p recent biliary stent
   placement presents with pre-sepsis in setting of recurrent biliary
   obstruction. Now s/p repeat ERCP with evidence of clot and bleeding
   from biliary tree.
   Issues include:
   Biliary obstruction
   Leukocytosis
   Blood loss anemia, bleeding from biliary tree (stabilized)
   GNR/staph bacteremia
   Crohn
   H/O CHOLECYSTITIS, CALCULOUS
   Short gut syndrome
   Biliary obstruction appears [**3-14**] stones and clot from prior biliary
   stent trauma/bleeding. Stent now removed. Her bilirubin is slowly
   decreasing.  Her wbc remains stably elevated and may be [**3-14**] infection
   or stress sterioids.  Bl cx
s now pos for GNR/staph. On vanco/zosyn
   awaiting sensitivities.  D/w surgery regarding possibility of infected
   port given staph in addition to biliary infection.  Low threshold for
   double PSA coverage in setting of clinical decline, though at this time
   appears to be responding well to current regimen.  Will send
   surveillancecx
s and monitor.  Will address with ERCP team plan for
   repeat procedure and possibly stent replacement now that bleeding has
   stabilized.  Maintain active T and C, follow hcts, goal hct 25.
   Coagulopathy was likely nutritional related in setting of short gut
   syndrome, now corrected. Tachycardia and hypertension likely from
   agitation/pain/anxiety as well as possibly withdrawal from beta
   blocker--nowresolved. CROHNS and history of ? adrenal insufficiency
will taper stress hydrocort to IV equivalent of home steroid dose
   while NPO.  Continue maintenance IVFs while NPO for procedure. Continue
   co-management with surgical team.
   Remainder as per resident note
   ICU Care
   Nutrition: npo, maintenance fluids
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2135-10-6**] 03:53 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : D/w surgical team regarding transfer to floor service.
   Total time spent:  40 min